US09302989B2
tert-butyl 4-(5-nitro-1H-benzo[d]imidazol-2-yl)piperazine-1-carboxylate
In a 20 mL sealed tube under nitrogen, a mixture of tert-butyl piperazine-1-carboxylate (0.943 g, 5.06 mmol), 2-chloro-5-nitro-1H-benzo[d]imidazole (0.5 g, 2.53 mmol) and ethanol (9.5 mL) was heated at 135° C. for 2 hours. The reaction was concentrated and the residue was purified by reverse-phase chromatography to provide the title compound.

reactant | tert-butyl piperazine-1-carboxylate | 5.06 mmol, 0.943 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-chloro-5-nitro-1H-benzo[d]imidazole | 2.53 mmol, 0.5 g | ClC1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H4ClN3O2
solvent | ethanol | 9.5 mL | C(C)O | C2H6O
product | tert-butyl 4-(5-nitro-1H-benzo[d]imidazol-2-yl)piperazine-1-carboxylate | [N+](=O)([O-])C1=CC2=C(NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H21N5O4
